US06555577B1
(E)-(S)-Ethyl 3-{4-[3-(3,5-Dibromophenyl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate
The title compound (851 mg, 81%) was prepared from (E)-3-(3,5-dibromo-phenyl)-but-2-en-1-ol (612 mg, 2.0 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (500 mg, 2.10 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(3,5-dibromo-phenyl)-but-2-en-1-ol | 2.0 mmol, 612 mg | BrC=1C=C(C=C(C1)Br)/C(=C/CO)/C | C10H10Br2O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.10 mmol, 500 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 3-{4-[3-(3,5-Dibromophenyl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate | 851 mg, 81% | BrC=1C=C(C=C(C1)Br)/C(=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)/C | C23H26Br2O4
